US04853150
Preparing of 2-[4'-(4-cyano-3-fluorophenyloxycarbonyl)-3'-fluorophenyl]-5-pentyl-1,3,2-dioxaborinane (VIs)
A mixture comprising 0.004 mole of 2-(4-carboxy-3-flurophenyl)-5-pentyl-1,3,2-dioxaborinane, 0.32 ml of pyridine, 0.32 ml of thionyl chloride in 50 ml of anhydrous diethyl ether is stirred for 1 hour. Then 0.004 mole of 4-hydroxy-2-fluorobenzonitrile and 1 ml of pyridine are added. The mixture is allowed to stand overnight and then filtered. The residue obtained after distilling off the solvent is crystallized from a mixture of hexane and ethyl alcohol. The yield of the compound (VIs) is 60%. M.p. 63° C.

reactant | 2-(4-carboxy-3-flurophenyl)-5-pentyl-1,3,2-dioxaborinane | 0.004 mole | C(=O)(O)C1=C(C=C(C=C1)B1OCC(CO1)CCCCC)F | C15H20BFO4
reactant | pyridine | 0.32 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.32 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxy-2-fluorobenzonitrile | 0.004 mole | OC1=CC(=C(C#N)C=C1)F | C7H4FNO
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-[4'-(4-cyano-3-fluorophenyloxycarbonyl)-3'-fluorophenyl]-5-pentyl-1,3,2-dioxaborinane | C(#N)C1=C(C=C(C=C1)OC(=O)C1=C(C=C(C=C1)B1OCC(CO1)CCCCC)F)F | C22H22BF2NO4
